US07767675B2
Step 2. 2-(pyridin-2-yloxy)ethanamine dihydrochloride
tert-Butyl 2-(pyridin-2-yloxy)ethylcarbamate (0.353 g) was treated with 4M of hydrogen chloride in 1,4-dioxane (0.6 mL) at RT for 1 h. The solvent was evaporated under reduced pressure. The residue was washed with ether, and dried to give the desired product (0.30 g, 96.8%).

reactant | tert-Butyl 2-(pyridin-2-yloxy)ethylcarbamate | 0.353 g | N1=C(C=CC=C1)OCCNC(OC(C)(C)C)=O | C12H18N2O3
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
product | 2-(pyridin-2-yloxy)ethanamine dihydrochloride | 0.30 g, 96.8% | Cl.Cl.N1=C(C=CC=C1)OCCN | InChI=1S/C7H10N2O.2ClH/c8-4-6-10-7-3-1-2-5-9-7;;/h1-3,5H,4,6,8H2;2*1H
